US07468375B2
Step 1: Methyl 1-(2,4-difluorobenzyl)-4-methoxymethyl-1-H-pyrrolo[2,3-c]pyridine-5-carboxylate.
The title compound was prepared by alkylation of methyl 4-methoxymethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylate [prepared according to X. Doisy et al., Bioorg. Med. Chem. 1999, 7, 921-932) with 2,4-difluorobenzyl bromide in a manner similar to step 1 of example 2. 1H NMR (CDCl3) δ ppm. 8.70 (s, 1H), 7.31 (d, 1H, J=4.0 Hz), 6.71-6.98 (m, 4H), 5.36 (s, 2H), 5.12 (s, 2H), 3.92 (s, 3H), 3.38 (s, 3H). LCMS (API-ES, M+H+): 347.1

reactant | methyl 4-methoxymethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | COCC1=C2C(=CN=C1C(=O)OC)NC=C2 | C11H12N2O3
reactant | 2,4-difluorobenzyl bromide | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
product | Methyl 1-(2,4-difluorobenzyl)-4-methoxymethyl-1-H-pyrrolo[2,3-c]pyridine-5-carboxylate | FC1=C(CN2C=CC=3C2=CN=C(C3COC)C(=O)OC)C=CC(=C1)F | C18H16F2N2O3
